US06828460B2
trans-4-[4-(Phenylsulfonyl)cyclohexyl]-1,3-benzenediol
A round bottom flask containing trans-4-[4-(phenylsulfanyl)cyclohexyl]-1,3-benzenediol (18 mg, 0.06 mmol) and dichloromethane (2 ml) was cooled to 0° C. and meta-chloroperbenzoic acid (50-60%, 41 mg, 0.24 mmol) was added with stirring. After 30 min at this temperature the reaction mixture was poured into saturated sodium thiosulfate solution (5 ml) and partitioned between saturated aqueous sodium hydrogen carbonate (10 ml) and dichloromethane (10 ml). The aqueous phase was further extracted with dichloromethane (2×10 ml) and the combined organic extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo. Purification via flash column chromatography (SiO2, ethyl acetate/petrol, 30:70) afforded the title compound (6 mg, 30%) as an off-white solid. δH (d4-MeOH) 1.40-1.62 (4H, m), 1.88-1.95 (2H, m), 2.05-2.13 (2H, m), 2.72 (1H, m), 3.18 (1H, m), 6.08-6.13 (2H, m), 6.82 (1H, d), 7.64 (2H, m), 7.75 (1H, m), 7.90 (2H, m); m/z (ES+) 333 (M+H)+.

reactant | trans-4-[4-(phenylsulfanyl)cyclohexyl]-1,3-benzenediol | 0.06 mmol, 18 mg | C1(=CC=CC=C1)S[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O)O | C18H20O2S
reactant | meta-chloroperbenzoic acid | 0.24 mmol, 41 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 5 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-4-[4-(Phenylsulfonyl)cyclohexyl]-1,3-benzenediol | 6 mg, 30% | C1(=CC=CC=C1)S(=O)(=O)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O)O | C18H20O4S
